US07112589B2
To 4 ml of MeOH/H2O (1:1) is added 0.52 g (1.87 mmol) of 4-[4-(2-methoxy-ethyl)-piperazin-1-yl]benzoic acid methyl ester and 0.078 g (1.96 mmol) of NaOH (30%). The resulting reaction mixture is stirred 1 hour at 80° C., then cooled to room temperature and diluted with H2O. The H2O-layer is extracted 3 times with diethyl ether and then lyophilised to yield 0.47 g of 4-[4-(2-methoxy-ethyl)-piperazin-1-yl)-benzoic acid sodium salt as a white solid.

reactant | MeOH H2O | 4 ml | CO.O
reactant | 4-[4-(2-methoxy-ethyl)-piperazin-1-yl]benzoic acid methyl ester | 1.87 mmol, 0.52 g | COC(C1=CC=C(C=C1)N1CCN(CC1)CCOC)=O | C15H22N2O3
reactant | NaOH | 1.96 mmol, 0.078 g | [OH-].[Na+]
solvent | H2O | O | H2O
product | 4-[4-(2-methoxy-ethyl)-piperazin-1-yl)-benzoic acid sodium salt | 0.47 g | [Na+].COCCN1CCN(CC1)C1=CC=C(C(=O)[O-])C=C1 | InChI=1S/C14H20N2O3.Na/c1-19-11-10-15-6-8-16(9-7-15)13-4-2-12(3-5-13)14(17)18;/h2-5H,6-11H2,1H3,(H,17,18);/q;+1/p-1
